US04167576
A. 2-Phenoxybenzyl chloride
Into a three-necked 500 ml round-bottom flask are charged 25 g (0.125 mole) of o-phenoxy benzyl alcohol and 200 ml of benzene. To this solution is added 18 g (0.15 mole) of thionyl chloride dropwise with stirring. The reaction mixture is then heated to reflux for four hours. Solvent and excess thionyl chloride are removed under vacuum to give 30 g of product.

reactant | o-phenoxy benzyl alcohol | 0.125 mole, 25 g | O(C1=CC=CC=C1)C1=C(CO)C=CC=C1 | C13H12O2
reactant | thionyl chloride | 0.15 mole, 18 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-Phenoxybenzyl chloride | 30 g | O(C1=CC=CC=C1)C1=C(CCl)C=CC=C1 | C13H11ClO
